US04301069
Sodium S-2(3,4-dihydro-3,6-dimethyl-2H-1,4-benzoxazin-4-yl)ethyl thiosulfate
Sodium thiosulfate (0.2 m), sodium iodide (1 g), N-(2-chloroethyl)-3,6-dimethyl-2H-1,4-benzoxazine, water (150 ml), and ethanol (75 ml) were mixed and heated at reflux for 3 hrs. The alcohol was distilled off and the reaction mixture was cooled. The product, a white solid, was collected by filtration and dried in air. The yield was essentially quantitative. Preparation of the Dyes

reactant | Sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium iodide | 1 g | [I-].[Na+]
reactant | N-(2-chloroethyl)-3,6-dimethyl-2H-1,4-benzoxazine | ClCCN1C(COC2=C1C=C(C=C2)C)C | C12H16ClNO
reactant | water | 150 ml | O | H2O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | Sodium S-2(3,4-dihydro-3,6-dimethyl-2H-1,4-benzoxazin-4-yl)ethyl thiosulfate | S(=O)(=O)(SCCN1C(COC2=C1C=C(C=C2)C)C)[O-].[Na+] | InChI=1S/C12H17NO4S2.Na/c1-9-3-4-12-11(7-9)13(10(2)8-17-12)5-6-18-19(14,15)16;/h3-4,7,10H,5-6,8H2,1-2H3,(H,14,15,16);/q;+1/p-1
